US07951822B2
b) Preparation of 4-bromo-3-(hydroxymethyl)-2-propylphenol
To a solution of 3-(hydroxymethyl)-2-propylphenol (1.05 g, 6.32 mmol) in dichloromethane (50 mL)-methanol (30 mL) mixtures, tetrabutylammonium tribromide (3.20 g, 6.64 mmol) was added at 0° C. The mixture was stirred at the same temperature for 1 hour. Solvent was evaporated under reduced pressure. The residue was added with water and extracted with ethyl acetate. Subsequently, the organic layer was washed with saturated saline, dried using anhydrous sodium sulfate, and concentrated in vacuum. The obtained residue was purified using silica-gel column chromatography (hexane/ethyl acetate) and the title compound (1.04 g, 67%) was obtained as colorless crystalline powder.

reactant | 3-(hydroxymethyl)-2-propylphenol | 6.32 mmol, 1.05 g | OCC=1C(=C(C=CC1)O)CCC | C10H14O2
reactant | methanol | 30 mL | CO | CH4O
reactant | tetrabutylammonium tribromide | 6.64 mmol, 3.20 g | [Br-].[Br-].[Br-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-bromo-3-(hydroxymethyl)-2-propylphenol | 1.04 g, 67% | BrC1=C(C(=C(C=C1)O)CCC)CO | C10H13BrO2
